US06506747B1
A solution of indane 2-carboxylic acid (324 mg, 2 mmol) and carbonyldiimidazole (299 mg, 2.2 mmol) in DMF (5 mL) was stirred at room temperature for 30 min. N,N-diisopropylethylamine (0.522 mL, 3 mmol) was added followed by N-methoxymethyl amine hydrochloride (195 mg, 2 mmol). The reaction mixture was stirred at room temperature for 18 h, and then treated with 1N sulfuric acid (100 mL). The mixture was extracted with methylene chloride (3×50 mL), and the combined extracts were washed with water, dried over anhydrous sodium sulfate, and evaporated to give N-methoxy-N-methyl-indane-2-carboxamide as a light brownish oil which was used without further purification in the next step.

reactant | indane 2-carboxylic acid | 2 mmol, 324 mg | C1C(CC2=CC=CC=C12)C(=O)O | C10H10O2
reactant | carbonyldiimidazole | 2.2 mmol, 299 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,N-diisopropylethylamine | 3 mmol, 0.522 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-methoxymethyl amine hydrochloride | 2 mmol, 195 mg | Cl.COCN
reactant | sulfuric acid | 1N, 100 mL | S(O)(O)(=O)=O | H2O4S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-methoxy-N-methyl-indane-2-carboxamide | CON(C(=O)C1CC2=CC=CC=C2C1)C | C12H15NO2
